US04690931
1. 2-(4-Benzylpiperidino)-3',5'-dimethylpropiophenone
21 g of 2-bromo-3'-,5'-dimethylpropiophenone are introduced into 50 ml of acetonitrile, the mixture is cooled to 0° C., 30.5 g of 4-benzylpiperidine are added and the mixture is stirred for 3 hours. It is diluted with 30 ml of diethyl ether, the precipitated hydrobromide is filtered off and 150 ml of diethyl ether are added to the filtrate, which produces a second crop of precipitate. This is filtered off and the filtrate is treated twice with 200 ml of 3N hydrochloric acid. The diethyl ether phase is separated off. The aqueous phase contains the hydrochloride of the propiophenone formed, as an emulsion. This aqueous phase is extracted with methylene chloride, the organic phase obtained is washed with water, dilute aqueous ammonia solution is added, the organic phase is decanted, washed with water, dried, filtered and treated with 100 g of silica, the mixture is filtered and the filtrate is evaporated. 14.4 g of an oil remain.

reactant | 2-bromo-3'-,5'-dimethylpropiophenone | 21 g | BrC(C(=O)C1=CC(=CC(=C1)C)C)C | C11H13BrO
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
reactant | 4-benzylpiperidine | 30.5 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
product | 2-(4-Benzylpiperidino)-3',5'-dimethylpropiophenone | C(C1=CC=CC=C1)C1CCN(CC1)C(C(=O)C1=CC(=CC(=C1)C)C)C | C23H29NO
